US07166598B2
To a solution of 3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazine (0.4 g) in N,N-dimethylformamide (5 ml) was added sodium hydride (60% oil suspension; 0.24 g) in portions. After a few minutes, a solution of 2-chloromethyl-1,3-dioxolane (0.43 g) in N,N-dimethylformamide (2 ml) was added dropwise to the mixture. After stirring for 2 hours, the mixture was poured into a mixed solvent of water and ethyl acetate. The organic layer was separated, washed with water twice, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of ethyl acetate and hexane (1:1) as an eluent to give 3,4-dihydro-4-[(1,3-dioxolan-2-yl)methyl]-2H-pyrido[3,2-b]-1,4-oxazine (0.28 g) as an oil.

reactant | 3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazine | 0.4 g | O1C2=C(NCC1)N=CC=C2 | C7H8N2O
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-chloromethyl-1,3-dioxolane | 0.43 g | ClCC1OCCO1 | C4H7ClO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-dihydro-4-[(1,3-dioxolan-2-yl)methyl]-2H-pyrido[3,2-b]-1,4-oxazine | 0.28 g | O1C(OCC1)CN1C2=C(OCC1)C=CC=N2 | C11H14N2O3
